US08067447B2
A mixture of ethyl 2-benzoyl-3-ethoxyacrylate (0.99 g, 4.0 mmol) and 1-phenyl-1H-pyrazol-5-amine (0.64 g, 4.0 mmol) was stirred at 120° C. for 1.5 hr under argon and then cooled. After diphenyl ether (5 g) was added, the mixture was stirred at 240° C. for 2 hr under argon. Flash chromatography and crystallization in heptane and ethyl acetate mixture gave (4-hydroxy-1-phenyl-1H-pyrazolo[3,4-b]pyridin-5-yl)(phenyl)methanone (0.53 g, 1.7 mmol, 42% yield) as a yellow solid.

reactant | ethyl 2-benzoyl-3-ethoxyacrylate | 4.0 mmol, 0.99 g | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)=COCC | C14H16O4
reactant | 1-phenyl-1H-pyrazol-5-amine | 4.0 mmol, 0.64 g | C1(=CC=CC=C1)N1N=CC=C1N | C9H9N3
reactant | diphenyl ether | 5 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-hydroxy-1-phenyl-1H-pyrazolo[3,4-b]pyridin-5-yl)(phenyl)methanone | 1.7 mmol, 0.53 g, 42% yield | OC1=C2C(=NC=C1C(=O)C1=CC=CC=C1)N(N=C2)C2=CC=CC=C2 | C19H13N3O2
